Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ PMHx HTN, DMII p/w fall while intoxicated resulting in acute 
C1 posterior arch fracture. Patient reports that he was at a 
___.'s ___ event and fell back while intoxicated 
hitting his neck. He otherwise denies headstrike or LOC. He was 
initially evaluated at ___ where CT C-spine 
demonstrated unstable odontoid fracture and so he was 
transferred to ___ for further care. 
.
Upon evaluation by Trauma surgery, the patient is neurologically 
intact. His sensorimotor function is intact in all four 
extremities and he has good rectal tone. Spine has evaluated 
patient and recommends nonoperative management w/ ___ brace. 
His sobriety had improved moderately by this time. He continues 
to report pain in his neck but otherwise denies headaches, 
vision changes, numbness/tingling, saddle anesthesia, loss of 
bowel or bladder function. Patient lives at home by himself and 
has no close family to help take care of him. He has no other 
injuries on exam.
 
Past Medical History:
Past medical history:
Hypertension, type 2 diabetes, right eye blindness (from war 
injury)

Past surgical history:
Bilateral rotator cuff repair, left biceps repair, bilateral 
knee
surgeries, left cataract removal

 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:

Vitals: Temp 98.5  HR 87  BP 148/85  RR 18  SpO2 96% RA

General: awake, alert, no acute distress
HEENT: ___ brace in place
CV: regular rate and rhythm
Pulm: normal respiratory effort
GI: abdomen soft, non-distended, non-tender
Extremities: warm and well perfused
 
Pertinent Results:
ADMISSION LABS:

___ 10:45AM BLOOD WBC-6.2 RBC-4.19* Hgb-13.6* Hct-40.4 
MCV-96 MCH-32.5* MCHC-33.7 RDW-12.4 RDWSD-43.9 Plt ___
___ 10:45AM BLOOD ___ PTT-24.8* ___
___ 10:45AM BLOOD Glucose-126* UreaN-22* Creat-1.1 Na-137 
K-4.4 Cl-97 HCO3-20* AnGap-20*
___ 07:28AM BLOOD Calcium-9.0 Phos-3.0 Mg-2.2

DISCHARGE LABS:

___ 04:30AM BLOOD Glucose-143* UreaN-31* Creat-1.5* Na-135 
K-5.1 Cl-95* HCO3-30 AnGap-10

IMAGING:

___ CT head without contrast
IMPRESSION: 
1. No acute intracranial abnormality on noncontrast head CT.  
Specifically no large territory infarct or intracranial 
hemorrhage.  No acute displaced 
calvarial fracture. 
2. Re-demonstration of multiple fractures through the posterior 
arch of C1 
3. Additional findings described above. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male who was brought in to ___ 
___ on ___ for evaluation after 
a fall. He was found to have multiple minimally displaced 
fractures of C1. He was evaluated by the spine team in the 
Emergency Department who recommended ___ brace for at 
least 1 month and outpatient follow up. He was then admitted to 
the surgery service for pain control and home safety evaluation. 

.
The patient was started on an oral pain regimen with adequate 
control. He was initiated on a CIWA scale due to concern for a 
history of alcohol use contributing to his fall. Social work saw 
the patient and were not concerned that he had a drinking 
history, so CIWA protocol was discontinued. Physical therapy 
worked with the patient and recommended discharge to rehab. 
.
The ___ hospital course was complicated by an acute kidney 
injury. His creatinine peaked at 1.7 from a baseline of 1.1. His 
home lisinopril and hydrochlorothiazide were held in this 
setting. His creatinine was downtrending at the time of 
discharge. 
.
On ___, the patient was tolerating a regular diet, voiding 
spontaneously without issue, ambulating with assistance, and his 
pain was well controlled on oral pain medical alone. The patient 
was deemed ready for discharge to rehab and was provided with 
appropriate discharge instructions. Patient should have serum 
chemistries rechecked on ___, and his home lisinopril 
and HCTZ should be resumed if his renal function has normalized. 
He is scheduled to follow up with neurosurgery in 1 month for 
evaluation. His ___ brace should remain on at all times 
until cleared by neurosurgery. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Lisinopril 20 mg PO DAILY 
4. Atorvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Polyethylene Glycol 17 g PO DAILY  
4.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*20 Tablet Refills:*0 
5.  Atorvastatin 20 mg PO QPM  
6.  Timolol Maleate 0.5% 1 DROP BOTH EYES BID  
7. HELD- Hydrochlorothiazide 12.5 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until instructed by 
your PCP.
8. HELD- Lisinopril 20 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until instructed by your PCP. 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
C1 fracture after a fall
Acute Kidney Injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were brought to ___ on 
___ for evaluation after a fall. You were found to have a 
fracture in your neck. You were admitted to the trauma surgery 
service for pain control, neck stabilization, and physical 
therapy. The spine surgery team was consulted and recommended a 
___ brace to stabilize your neck and allow the fracture to 
heal properly. You are recovering well and are now ready for 
discharge to rehab for further physical therapy and 
strength-building. Please follow the instructions below to 
continue your recovery:
.
ACTIVITY: 
 o WEAR YOUR NECK BRACE AT ALL TIMES. 
 o Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency. 
 o You may climb stairs.  
 o You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit. 
 o Don't lift or exercise until cleared by neurosurgery. 
.
YOUR INCISION: 
 o Tomorrow you may shower and remove the gauzes over your 
incisions. Under these dressing you have small plastic bandages 
called steri-strips. Do not remove steri-strips for 2 weeks. 
(These are the thin paper strips that might be on your 
incision.) But if they fall off before that that's okay). 
 o Your incisions may be slightly red around the stitches. This 
is normal. 
 o You may gently wash away dried material around your incision. 

 o Avoid direct sun exposure to the incision area. 
 o Do not use any ointments on the incision unless you were told 
otherwise. 
 o You may see a small amount of clear or light red fluid 
staining your dressing or clothes. If the staining is severe, 
please call your surgeon. 
 o You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming. 
.   
YOUR BOWELS: 
 o Constipation is a common side effect of narcotic pain 
medications. If needed, you may take a stool softener (such as 
Colace, one capsule) or gentle laxative (such as milk of 
magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription. 
 o If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.  
.  
PAIN MANAGEMENT: 
 o It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness".  
 o Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon. 

 o You will receive a prescription for pain medicine to take by 
mouth. It is important to take this medicine as directed. o Do 
not take it more frequently than prescribed. Do not take more 
medicine at one time than prescribed. 
 o Your pain medicine will work better if you take it before 
your pain gets too severe. 
 o Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay. 
 o If you are experiencing no pain, it is okay to skip a dose of 
pain medicine. 
 o Remember to use your "cough pillow" for splinting when you 
cough or when you are doing your deep breathing exercises.
.
If you experience any of the following, please contact your 
surgeon: 
 - sharp pain or any severe pain that lasts several hours 
 - pain that is getting worse over time 
 - pain accompanied by fever of more than 101 
 - a drastic change in nature or quality of your pain 
.   
MEDICATIONS: 
 Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently. 
 If you have any questions about what medicine to take or not to 
take, please call your surgeon.
.
 
Followup Instructions:
___